US03950353
N-Methyl-N'-[2-(2-pyrazinylmethylamino)ethyl]urea
Reacting N-(2-pyrazinylmethyl)ethylenediamine with methyl isocyanate by the procedure of Example 24, then concentrating and separating the residue by column chromatography gives the title compound.

reactant | N-(2-pyrazinylmethyl)ethylenediamine | N1=C(C=NC=C1)CNCCN | C7H12N4
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(2-pyrazinylmethylamino)ethyl]urea | CNC(=O)NCCNCC1=NC=CN=C1 | C9H15N5O
